US05686628
A solution of 4-methyl-3-nitro-1,1,1-trifluoro-2-pentanol (17.1 g) in isopropanol (115 ml) and acetic acid (0.43 ml) was hydrogenated over 10% palladium on carbon (2.4 g) at 3.5 bar pressure until uptake of hydrogen was complete. The catalyst was removed by filtration through diatomaceous earth and the filter cake washed with isopropanol. The filtrate was evaporated under vacuum until no further isopropanol distilled and the residue dissolved in acetonitrile (40 ml). A solution of oxalic acid (3.94 g) in acetonitrile (80 ml) was added with stirring and the mixture cooled to 5° C. The product which crystallised was collected by filtration, washed with cold acetonitrile and dried at 50° C. to give 3-amino-4-methyl-1,1,1-trifluoro-2-pentanol as its oxalate salt (9.08 g).

reactant | 4-methyl-3-nitro-1,1,1-trifluoro-2-pentanol | 17.1 g | CC(C(C(C(F)(F)F)O)[N+](=O)[O-])C | C6H10F3NO3
reactant | hydrogen | [H][H] | H2
solvent | isopropanol | 115 ml | C(C)(C)O | C3H8O
solvent | acetic acid | 0.43 ml | C(C)(=O)O | C2H4O2
catalyst | palladium on carbon | 2.4 g | [Pd] | Pd
product | 3-amino-4-methyl-1,1,1-trifluoro-2-pentanol | NC(C(C(F)(F)F)O)C(C)C | C6H12F3NO
